US07220862B2
7-Chloroindazole-5-carboxaldehyde
5-Bromo-7-chloroindazole (2.0 g, 8.7 mmol) and sodium hydride (221 mg, 1.1 equiv) were weighed into a flame-dried round-bottom flask containing a magnetic stir bar. Under a nitrogen atmosphere at room temperature, dry tetrahydrofuran (30 mL) was added. The mixture was stirred at room temperature for 15 min, during which time it became homogeneous. The stirred mixture was cooled to −78° C. and a solution of tert-butyllithium in pentane (1.7 M, 10.5 mL, 2.0 equiv) was added over several minutes. After 30 min at −78° C., the reaction was gradually warmed to −50° C., kept there for 15 min, and recooled to −78° C. Dimethylformamide (2.8 mL) was slowly added and the mixture allowed to warm to −50° C. The solution was quickly transferred to a separatory funnel containing diethyl ether and water. The aqueous was made acidic by the addition of 1 M potassium hydrogen sulfate and neutralized by the addition of sodium bicarbonate. The aqueous was extracted with diethyl ether (3×) which was washed with water, then brine, dried over magnesium sulfate, and concentrated to give 1.7 g (100%) of nearly pure material. An analytically pure sample was obtained by recrystallization from hot methanol. 1H-NMR (CDCl3, 500 MHz) δ 7.97 (s, 1H), 8.20 (s, 1H), 8.30 (s, 1H), 10.02 (s, 1H).

reactant | 5-Bromo-7-chloroindazole | 8.7 mmol, 2.0 g | BrC=1C=C2C=NNC2=C(C1)Cl | C7H4BrClN2
reactant | sodium hydride | 221 mg, 1.1 equiv | [H-].[Na+]
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 1.7 M, 10.5 mL, 2.0 equiv | CCCCC | C5H12
reactant | potassium hydrogen sulfate | 1 M | S(=O)(=O)(O)[O-].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Dimethylformamide | 2.8 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 7-Chloroindazole-5-carboxaldehyde | ClC=1C=C(C=C2C=NNC12)C=O | C8H5ClN2O
